US07531577B2
A mixture of N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide, (Benzyloxycarbonyl-methyl-amino)-acetic acid, 1-hydroxybenzotriazole, N-(3-dimethylaminopropyl)-N-ethylcarbodiimide and triethylamine in methylene chloride is stirred at room temperature. The reaction is quenched by addition of water, and the mixture is eluted through silica gel to give {[(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | (Benzyloxycarbonyl-methyl-amino)-acetic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)O | C11H13NO4
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide | CC[N+](=C=N)CCCN(C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {[(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-carbamoyl]-methyl}-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)CC(NCC1=CC=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)=O)=O | C28H27N3O5S
